US08232265B2
Hexadecylpyridinium Piperacillin
Hexadecylpyridinium chloride (0.001 mol) was dissolved in 60 mL of distilled water by gentle heating and stirring. Sodium piperacillin (0.001 mol) was dissolved in 60 mL of distilled water by gentle heating and stirring. The two solutions were combined and the reaction mixture was heated and stirred for 30 minutes. The reaction mixture cooled to room temperature, and then 60 mL of chloroform was added. The reaction mixture was stirred for an additional 30 minutes. The two phases were separated and the chloroform phase was washed several times with cool distilled water to remove any inorganic salt. The presence of chloride anions was monitored by silver nitrate test. A rotary evaporator removed the chloroform and a soft orange solid was obtained in 58.66% yield. Melting point (hot plate apparatus)=30-40° C.

reactant | Hexadecylpyridinium chloride | 0.001 mol | [Cl-].C(CCCCCCCCCCCCCCC)[N+]1=CC=CC=C1
reactant | Sodium piperacillin | 0.001 mol | CCN1CCN(C(=O)C1=O)C(=O)N[C@H](C2=CC=CC=C2)C(=O)N[C@H]3[C@@H]4N(C3=O)[C@H](C(S4)(C)C)C(=O)[O-].[Na+]
reactant | chloroform | 60 mL | C(Cl)(Cl)Cl | CHCl3
solvent | water | 60 mL | O | H2O
solvent | water | 60 mL | O | H2O
product | Hexadecylpyridinium Piperacillin | 58.66% yield | C(CCCCCCCCCCCCCCC)[N+]1=CC=CC=C1.CCN1CCN(C(=O)C1=O)C(=O)N[C@H](C=2C=CC=CC2)C(=O)N[C@H]3[C@@H]4N(C3=O)[C@H](C(S4)(C)C)C(=O)O | InChI=1S/C23H27N5O7S.C21H38N/c1-4-26-10-11-27(19(32)18(26)31)22(35)25-13(12-8-6-5-7-9-12)16(29)24-14-17(30)28-15(21(33)34)23(2,3)36-20(14)28;1-2-3-4-5-6-7-8-9-10-11-12-13-14-16-19-22-20-17-15-18-21-22/h5-9,13-15,20H,4,10-11H2,1-3H3,(H,24,29)(H,25,35)(H,33,34);15,17-18,20-21H,2-14,16,19H2,1H3/q;+1/t13-,14-,15+,20-;/m1./s1
